US05602277
Ethyl 3-nitro-4-[(methylsulfonyl)amino]benzoate (1.0 g, 0.0035 mol) was dissolved in ethanol (40 mL) and hydrogenated at 20 psi in the presence of platinum oxide (Aldrich, 0.02 g) for 1 h. The catalyst was removed by filtration through Celite and the filtrate was concentrated to 20 mL. On cooling, a precipitate formed which was separated by filtration, washed with cold ethanol, and dried to give 0.75 g (84%) of ethyl 3-amino-4-[(methylsulfonyl)amino]benzoate as a white powder, mp 151° C.

reactant | Ethyl 3-nitro-4-[(methylsulfonyl)amino]benzoate | 0.0035 mol, 1.0 g | [N+](=O)([O-])C=1C=C(C(=O)OCC)C=CC1NS(=O)(=O)C | C10H12N2O6S
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | platinum oxide | 0.02 g | [Pt]=O
product | ethyl 3-amino-4-[(methylsulfonyl)amino]benzoate | 0.75 g, 84% | NC=1C=C(C(=O)OCC)C=CC1NS(=O)(=O)C | C10H14N2O4S
